US07608563B2
In dry tetrahydrofuran (25 mL) was suspended 4.80 g (120 mmol) of 60% sodium hydride, and a dry tetrahydrofuran (80 mL) solution containing 15.0 g (100 mmol) of 2-tert-butylphenol was added dropwise to this suspension at 0° C. After stirring the mixture at 0° C. for 10 minutes, a dry tetrahydrofuran (80 mL) solution containing 14.9 g (119 mmol) of 2-methoxyethoxymethyl chloride was added dropwise to the mixture. The reaction mixture was stirred in an ice bath for 4 hours and 30 minutes, and allowed to stand at room temperature overnight. To the reaction mixture were further added 1.20 g (30 mmol) of 60% sodium hydride and 3.8 g (30 mmol) of 2-methoxyethoxymethyl chloride at 0° C., and the mixture was stirred at 0° C. for 7 hours. The reaction mixture was poured into ice-cold water (250 mL), and extracted with ethyl acetate. The organic layers were combined, washed with 2N aqueous sodium hydroxide solution and brine, and dried over anhydrous sodium sulfate. The solvent was removed, and the residue was purified by silica gel column chromatography (eluted with hexane:ethyl acetate=20:1) to obtain 19.7 g (82.8 mmol, Yield: 82.8%) of tert-butyl-2-[(2-methoxyethoxy)methoxy]benzene.

reactant | sodium hydride | 120 mmol, 4.80 g | [H-].[Na+]
reactant | 2-tert-butylphenol | 100 mmol, 15.0 g | C(C)(C)(C)C1=C(C=CC=C1)O | C10H14O
reactant | 2-methoxyethoxymethyl chloride | 119 mmol, 14.9 g | COCCOCCl | C4H9ClO2
reactant | sodium hydride | 30 mmol, 1.20 g | [H-].[Na+]
reactant | 2-methoxyethoxymethyl chloride | 30 mmol, 3.8 g | COCCOCCl | C4H9ClO2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | tert-butyl-2-[(2-methoxyethoxy)methoxy]benzene | 82.8 mmol, 19.7 g, Yield: 82.8% | C(C)(C)(C)C1=C(C=CC=C1)OCOCCOC | C14H22O3
